US07816397B2
2-{2-[4-(Methylsulfonylamino)phenoxy]ethoxy}phenylpropanoic acid
38 mg (0.332 mM) of methanesulfonyl chloride are added to a mixture of 0.25 ml of dimethylformamide and 1.5 ml of tetrahydrofuran in a 15 ml reactor. 100 mg (0.332 mM) of 2-{2-(4-aminophenoxy)ethoxy}phenylpropanoic acid are then added, followed by addition of 0.060 ml (0.74 mM) of pyridine. The reaction medium is then stirred for 48 hours at room temperature. After extraction with ethyl acetate, 20 mg of 2-{2-[4-(methylsulfonylamino)phenoxy]ethoxy}phenyl-propanoic acid are obtained (yield: 16%).

reactant | methanesulfonyl chloride | 0.332 mM, 38 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
reactant | 2-{2-(4-aminophenoxy)ethoxy}phenylpropanoic acid | 0.332 mM, 100 mg | NC1=CC=C(OCCOC2=C(C=CC=C2)C(C(=O)O)C)C=C1 | C17H19NO4
solvent | pyridine | 0.74 mM, 0.060 ml | N1=CC=CC=C1 | C5H5N
product | 2-{2-[4-(Methylsulfonylamino)phenoxy]ethoxy}phenylpropanoic acid | yield: 16% | CS(=O)(=O)NC1=CC=C(OCCOC2=C(C=CC=C2)C(C(=O)O)C)C=C1 | C18H21NO6S
